US05821246
Using an analogous procedure to that described in Example 1, 4-amino-N-phenylbenzenesulphonamide was reacted with 4-chloro-6,7-dimethoxyquinazoline hydrochloride to give 6,7-dimethoxy-4-[4-(N-phenylsulphamoyl)anilino]quinazoline hydrochloride salt in 95% yield,

reactant | 4-amino-N-phenylbenzenesulphonamide | NC1=CC=C(C=C1)S(=O)(=O)NC1=CC=CC=C1 | C12H12N2O2S
reactant | 4-chloro-6,7-dimethoxyquinazoline hydrochloride | Cl.ClC1=NC=NC2=CC(=C(C=C12)OC)OC
product | 6,7-dimethoxy-4-[4-(N-phenylsulphamoyl)anilino]quinazoline hydrochloride salt | 95% yield | Cl.COC=1C=C2C(=NC=NC2=CC1OC)NC1=CC=C(C=C1)S(NC1=CC=CC=C1)(=O)=O | InChI=1S/C22H20N4O4S.ClH/c1-29-20-12-18-19(13-21(20)30-2)23-14-24-22(18)25-15-8-10-17(11-9-15)31(27,28)26-16-6-4-3-5-7-16;/h3-14,26H,1-2H3,(H,23,24,25);1H
